US09238639B2
B) 3-Fluoro-5-methoxybenzenethiol
A mixture of anisole (12.04 g), 1-fluoro-3-methoxy-5-((4-methoxybenzyl)sulfanyl)benzene (6.2 g) and TFA (20 mL) was refluxed for 1 h, then concentrated in vacuo. Water was added to the residue and the mixture was extracted with EtOAc. The organic layer was washed with saturated aqueous NaHCO3 and extracted with 2N NaOH (100 mL×3). The water layer was acidified with 6N HCl and extracted with EtOAc. The EtOAc extract was washed successively with water and brine, dried over MgSO4, and concentrated in vacuo to give the title compound (2.30 g).

reactant | anisole | 12.04 g | C1(=CC=CC=C1)OC | C7H8O
reactant | 1-fluoro-3-methoxy-5-((4-methoxybenzyl)sulfanyl)benzene | 6.2 g | FC1=CC(=CC(=C1)SCC1=CC=C(C=C1)OC)OC | C15H15FO2S
solvent | TFA | 20 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3-Fluoro-5-methoxybenzenethiol | 2.30 g | FC=1C=C(C=C(C1)OC)S | C7H7FOS
